* SLiCAP-NGSPICE library

.subckt Nullor outP outN inP inN
E1 outP outN in outN 1
E2 outP in inP inN 1
.ends

.subckt Transformer outP outN inP inN params n=1
E1 outP 1 inP inN n
V1 outN 1 0
F1 inP inN V1 n
.ends

.subckt Gyrator outP outN inP inN params g=1
G1 outP outN inP inN g
G2 inP inN outN outP g
.ends

*     Node assignments
*             Non-Inverting Input
*             |  Inverting Input 
*             |  |  positive supply
*             |  |  |  negative supply
*             |  |  |  |  output
*             |  |  |  |  | 
*             |  |  |  |  |
.subckt OpAmp ni ii vp vn out
.ends
