VampIdeal

.source V1
.detector V_L

V1 1 0 V value={0}
R1 in 1 R value={R_s}
R2 L 2 R value={R_a}
R3 2 0 R value={R_b}
R4 L 0 R value={R_L}
C1 L 0 C value={C_L}
N1 L 0 in 2 N

.end