balancedAmp

.model myOpAmp OV
+ cd={5p}
+ cc={2p}
+ av={A_0/(1+s/(2*pi*f_p1))}
+ zo={1k}

.param
+ R_a={100k}
+ R_b={100}
+ R_s={1k}
+ R_L={200}
+ f_p1={50}

.source V1P V1N
.detector V_outP V_outN
.lgref E_O1P E_O1N

O1P inP fbP outP 0 myOpAmp
O1N inN fbN outN 0 myOpAmp
R1P srcP inP R value={R_s}
R1N srcN inN R value={R_s}
R3 fbP fbN R value={R_b}
R2P outP fbP R value={R_a}
R2N fbN outN R value={R_a}
R4 outP outN R value={R_L}
V1P srcP 0 V value={0}
V1N srcN 0 V value={0}

.end